US04822793
7-Amino-3-(6-aminoquinol-2-ylmethyl)-1,2,4,5-tetrahydro-3H-3-benzazepine
The title compound was prepared similarly to the procedure of Preparation 5 by the hydrogenation of 7-nitro-3-(6-nitroquinol-2-ylmethyl)-1,2,4,5-tetrahydro-3H-3-benzazepine using H2 /Pd/C in ethanol.

reactant | 7-nitro-3-(6-nitroquinol-2-ylmethyl)-1,2,4,5-tetrahydro-3H-3-benzazepine | [N+](=O)([O-])C1=CC2=C(CCN(CC2)CC2=NC3=CC=C(C=C3C=C2)[N+](=O)[O-])C=C1 | C20H18N4O4
solvent | ethanol | C(C)O | C2H6O
catalyst | H2 Pd/C | [H][H].[Pd]
product | 7-Amino-3-(6-aminoquinol-2-ylmethyl)-1,2,4,5-tetrahydro-3H-3-benzazepine | NC1=CC2=C(CCN(CC2)CC2=NC3=CC=C(C=C3C=C2)N)C=C1 | C20H22N4
